US07645752B2
Step 2: Preparation of 4-bromo-2-[(phenylsulfonyl)methyl]aniline:
This compound was prepared by catalytic hydrogenation of 5-bromo-2-nitrobenzyl phenyl sulfone (0.23 g, 0.64 mmol) in the presence of Raney nickel and hydrogen (45 psi) in ethyl acetate (30 ml) for 1 hour. The reaction mixture is filtered through celite and concentrated in vacuo to give the title compound as a light brown solid (0.21 g, 99%). Mp: 140-141° C. MS (ES+): 326 (M+H).

reactant | 5-bromo-2-nitrobenzyl phenyl sulfone | 0.64 mmol, 0.23 g | C1(=CC=CC=C1)S(=O)(=O)CC1=C(C=CC(=C1)Br)[N+](=O)[O-] | C13H10BrNO4S
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 4-bromo-2-[(phenylsulfonyl)methyl]aniline | 0.21 g, 99% | BrC1=CC(=C(N)C=C1)CS(=O)(=O)C1=CC=CC=C1 | C13H12BrNO2S
